US04966967
4-[(4-Methylphenyl)sulfonyl]-9-nitro-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine
To dimethylformamide (200 mL) add 4-nitrocatechol (13.8 g, 89 mmol), 4-methyl-N,N-bis[2-[[(4-methylphenyl)sulfonyl]oxy]ethyl]benzenesulfonamide (50.7 g, 89.4 mmol), and K2CO3 (27 g, 0.19 mol). Stir and heat the reaction at 110° C. Monitor the progress of the reaction by thin-layer chromatography. Upon completion remove the heat and add water (1.3 L) and methanol (300 mL). Collect the precipitate on paper by suction filtration. Wash the solid with water (2 L). Chromatograph the material on silica (300 g) with CH2Cl2 to obtain the title compound.

reactant | 4-nitrocatechol | 89 mmol, 13.8 g | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
reactant | 4-methyl-N,N-bis[2-[[(4-methylphenyl)sulfonyl]oxy]ethyl]benzenesulfonamide | 89.4 mmol, 50.7 g | CC1=CC=C(C=C1)S(=O)(=O)N(CCOS(=O)(=O)C1=CC=C(C=C1)C)CCOS(=O)(=O)C1=CC=C(C=C1)C | C25H29NO8S3
reactant | K2CO3 | 0.19 mol, 27 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 4-[(4-Methylphenyl)sulfonyl]-9-nitro-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | CC1=CC=C(C=C1)S(=O)(=O)N1CCOC2=C(OCC1)C=CC(=C2)[N+](=O)[O-] | C17H18N2O6S
